US05250504
By the method of Example 10, 0.49 g (0.0012 mole) of 3-[[4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazol-5-yl]acrylic acid chloride, 0.25 g (0.0015 mole) of phenylmethanesulfonamide, and 0.038 g (0.0016 mole) of sodium hydride were reacted in 10 mL of tetrahydrofuran, yielding 0.35 g of N-phenylmethanesulfonyl-3-[4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazol-5-yl]acrylamide as a solid; m.p. 178°-183° C. The nmr spectrum was consistent with the proposed structure.

reactant | [4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazol-5-yl]acrylic acid chloride | C(#N)C=1C=NN(C1C(C(=O)Cl)=C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H5Cl3F3N3O
reactant | phenylmethanesulfonamide | 0.0015 mole, 0.25 g | C1(=CC=CC=C1)CS(=O)(=O)N | C7H9NO2S
reactant | sodium hydride | 0.0016 mole, 0.038 g | [H-].[Na+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-phenylmethanesulfonyl-3-[4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazol-5-yl]acrylamide | 0.35 g | C1(=CC=CC=C1)CS(=O)(=O)NC(C=CC1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)=O | C21H13Cl2F3N4O3S
